US07642270B2
D. 1-Indan-5-yl-7-[4-(4-methyl-piperazin-1-yl)-phenylamino]-4-oxo-1,4-dihydro-[1,6]naphthyridine-3-carboxylic acid amide
To a solution of 7-chloro-1-indan-5-yl-4-oxo-1,4-dihydro-[1,6]naphthyridine-3-carboxylic acid ethyl ester (40 mg, 0.11 mmol) and 4-(4-Methyl-piperazin-1-yl)-phenylamine (45 mg, 0.23 mmol) in 1 mL of NMP was added triethylamine (24 mg, 0.24 mmol). The reaction was heated in a microwave reactor at 200° C. for 2 hours. The solvent was evaporated under vacuo and the product was purified by preparative HPLC (32 mL/min, 5-100% H2O/MeCN (0.01% TFA, v/v) gradient over 15 min). The title compound was obtained as a yellow solid (6.9 mg, 10%). 1H NMR (400 MHz, CD3OD) δ (ppm): 9.11 (s, 1H), 8.57 (s, 1H), 7.45 (d, J=7.9 Hz, 1H), 7.35 (m, 3H), 7.25 (dd, J=1.9 Hz, J=7.9 Hz, 1H), 6.96 (d, J=8.8 Hz, 2H), 6.13 (s, 1H), 3.40-3.80 (br, 8H), 3.01 (m, 4H), 2.96 (s, 3H), 2.17 (m, 2H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C29H30N6O2: 495.24 (M+H), Found: 495.1.

reactant | 7-chloro-1-indan-5-yl-4-oxo-1,4-dihydro-[1,6]naphthyridine-3-carboxylic acid ethyl ester | 0.11 mmol, 40 mg | C(C)OC(=O)C1=CN(C2=CC(=NC=C2C1=O)Cl)C=1C=C2CCCC2=CC1 | C20H17ClN2O3
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.23 mmol, 45 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | triethylamine | 0.24 mmol, 24 mg | C(C)N(CC)CC | C6H15N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | 1-Indan-5-yl-7-[4-(4-methyl-piperazin-1-yl)-phenylamino]-4-oxo-1,4-dihydro-[1,6]naphthyridine-3-carboxylic acid amide | C1CCC2=CC(=CC=C12)N1C=C(C(C2=CN=C(C=C12)NC1=CC=C(C=C1)N1CCN(CC1)C)=O)C(=O)N | C29H30N6O2
